US07560558B2
Compound 441: 3-[6-Methoxy-7-(2-morpholin-4-yl-ethoxy)-quinolin-4-yloxy]-2-methyl-[1,8]naphthyridine
3-[7-Hydroxy-6-methoxy-quinolin-4-yloxy]-2-methyl-[1,8]naphthyridine (67 mg) was dissolved in N,N-dimethylformamide (5 ml) to prepare a solution. Potassium carbonate (225 mg) and 1-bromo-2-chloroethane (0.15 ml) were added to the solution, and the mixture was stirred at room temperature overnight. Morpholine (0.3 ml) was added to the reaction solution, and the mixture was further stirred overnight at 70° C. Potassium carbonate (354 mg) and morpholine (0.2 ml) were further added to the reaction solution, and the mixture was stirred at 70° C. overnight. The reaction solution was cooled to room temperature, water was then added to the reaction solution, and the mixture was extracted with chloroform. The chloroform layer was washed with saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by thin layer chromatography using chloroform-methanol to give the title compound (11 mg, yield 12%) (2 steps).

reactant | 3-[7-Hydroxy-6-methoxy-quinolin-4-yloxy]-2-methyl-[1,8]naphthyridine | 67 mg | OC1=C(C=C2C(=CC=NC2=C1)OC=1C(=NC2=NC=CC=C2C1)C)OC | C19H15N3O3
reactant | Potassium carbonate | 225 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-chloroethane | 0.15 ml | BrCCCl | C2H4BrCl
reactant | Morpholine | 0.3 ml | N1CCOCC1 | C4H9NO
reactant | Potassium carbonate | 354 mg | C([O-])([O-])=O.[K+].[K+]
reactant | morpholine | 0.2 ml | N1CCOCC1 | C4H9NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-[6-Methoxy-7-(2-morpholin-4-yl-ethoxy)-quinolin-4-yloxy]-2-methyl-[1,8]naphthyridine | 11 mg, yield 12% | COC=1C=C2C(=CC=NC2=CC1OCCN1CCOCC1)OC=1C(=NC2=NC=CC=C2C1)C | C25H26N4O4
